US08293916B2
Step 3: 1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazole-4-carbaldehyde
[1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-yl]-methanol (0.38 g, 1.6 mmol) was dissolved in 35 ml dichloromethane. Mangan(IV)oxid (1.38 g, 16 mmol) was added, and the reaction mixture stirred at reflux for 2 hrs. The suspension was filtered through a dicalite speed plus pad and washed with dichloromethane. The solvents were evaporated, and the desired compound was obtained as a yellow oil (0.325 g, 86%), MS: m/e=237.1 (M+H+).

reactant | [1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-yl]-methanol | 1.6 mmol, 0.38 g | FC1=C(C=CC(=C1)F)N1C(=NC(=C1C)CO)C | C12H12F2N2O
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 1-(2,4-Difluoro-phenyl)-2,5-dimethyl-1H-imidazole-4-carbaldehyde | FC1=C(C=CC(=C1)F)N1C(=NC(=C1C)C=O)C | C12H10F2N2O
